US07893074B2
To a solution of 4-methoxyphenyl-boronic acid (500 mg, 3.29 mmol) in toluene (5.2 mL) and ethanol (1.3 mL), potassium carbonate (910 mg, 6.58 mmol), tetrakis(triphenylphosphine)-palladium (228.1 mg, 0.099 mmol) and 4-bromo-1-ethyl-2-nitrobenzene (711 mg, 3.29 mmol) are added and stirred at 100° C. for 7 hours. The mixture is poured into water and extracted with ethyl acetate two times. The organic layer is washed with water and then brine, dried over magnesium sulfate, and evaporated in vacuo. The residue is purified with silica gel column chromatography (n-hexane:ethyl acetate=5:1) to afford the 4′-methoxy-4-methyl-3-nitrobiphenyl as a yellow solid.

reactant | 4-methoxyphenyl-boronic acid | 3.29 mmol, 500 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 6.58 mmol, 910 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-1-ethyl-2-nitrobenzene | 3.29 mmol, 711 mg | BrC1=CC(=C(C=C1)CC)[N+](=O)[O-] | C8H8BrNO2
reactant | water | O | H2O
solvent | toluene | 5.2 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1.3 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)-palladium | 0.099 mmol, 228.1 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4′-methoxy-4-methyl-3-nitrobiphenyl | COC1=CC=C(C=C1)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C14H13NO3
